US06352982B1
A 1N aqueous solution of sodium hydroxide (1.5 ml) was added to a methanol solution (6 m.) of 5-(3-tert-butyloxycarbonylaminomethylphenyl)-7-chloro-2,3-dihydro-2-oxo-1H-1,4-benzodiazepine-3-acetic acid methyl ester (0.6 g), the compound produced in Example 97-(1). The mixture was stirred for 2 hours at 60° C. The reaction mixture was diluted with water (50 ml), which was acidified, followed by extraction with ethyl acetate (50 ml) twice. The extracts were combined and washed with a saturated aqueous saline solution, followed by drying over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to give 5-(3-tert-butyloxycarbonylaminomethylphenyl)-7-chloro-2,3-dihydro-2-oxo-1H-1,4-benzodiazepine-3-acetic acid (0.64 g) as a colorless amorphous solid product.

reactant | sodium hydroxide | 1.5 ml | [OH-].[Na+]
reactant | methanol | CO | CH4O
reactant | 5-(3-tert-butyloxycarbonylaminomethylphenyl)-7-chloro-2,3-dihydro-2-oxo-1H-1,4-benzodiazepine-3-acetic acid methyl ester | 0.6 g | COC(CC1C(NC2=C(C(=N1)C1=CC(=CC=C1)CNC(=O)OC(C)(C)C)C=C(C=C2)Cl)=O)=O | C24H26ClN3O5
solvent | water | 50 ml | O | H2O
product | 5-(3-tert-butyloxycarbonylaminomethylphenyl)-7-chloro-2,3-dihydro-2-oxo-1H-1,4-benzodiazepine-3-acetic acid | 0.64 g | C(C)(C)(C)OC(=O)NCC=1C=C(C=CC1)C1=NC(C(NC2=C1C=C(C=C2)Cl)=O)CC(=O)O | C23H24ClN3O5
